US08350028B2
1-[2-(2,4-Dimethoxy-benzylamino)-quinolin-6-yl]-3-isopropyl-urea
The title compound, MS: m/e=395.4 (M+H+), was prepared in accordance with the general method of example 14 from 2-chloro-6-nitro-quinoline, 2,4-dimethoxy-benzylamine and isopropyl isocyanate.

reactant | 2-chloro-6-nitro-quinoline | ClC1=NC2=CC=C(C=C2C=C1)[N+](=O)[O-] | C9H5ClN2O2
reactant | 2,4-dimethoxy-benzylamine | COC1=C(CN)C=CC(=C1)OC | C9H13NO2
reactant | isopropyl isocyanate | C(C)(C)N=C=O | C4H7NO
product | 1-[2-(2,4-Dimethoxy-benzylamino)-quinolin-6-yl]-3-isopropyl-urea | COC1=C(CNC2=NC3=CC=C(C=C3C=C2)NC(=O)NC(C)C)C=CC(=C1)OC | C22H26N4O3
